US07459451B2
To an ice-cooled solution of (2E)-3-[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-2-propen-1-ol (44 mg) and diisopropylethylamine (20 mg) in DCM (1 ml) was added methyl chloroformate (13.5 mg) and stirred for 2 hours at room temperature. The solvent was dried up and the residue was purified with silica gel column chromatography (CHCl3-MeOH 0-2%). (2E)-3-[1-Ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-2-propen-1-yl methyl carbonate was obtained as a clear oil.

reactant | (2E)-3-[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-2-propen-1-ol | 44 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)/C=C/CO)COC | C19H22N4O2
reactant | diisopropylethylamine | 20 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl chloroformate | 13.5 mg | ClC(=O)OC | C2H3ClO2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | (2E)-3-[1-Ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-2-propen-1-yl methyl carbonate | C(OC\C=C\C=1C(=C2C(=NC1COC)N(N=C2)CC)C=2C=NC=C(C2)C)(OC)=O | C21H24N4O4
